US06723799B2
A mixture of 6,6′-imino-bis-capronitrile (20.7 g, 100 mmol), 1-iodopropane (18.7 g 110 mmol), potassium carbonate (16.6 g, 120 mmol), and 100 mL of tetrahydrofuran was stirred and heated at 60° C. under nitrogen for three days. The product mixture was cooled to room temperature, and 25 mL of water was added to dissolve most of the solids. The aqueous layer was drawn off in a separatory funnel, a 125-mL portion of methyl t-butyl ether was added, and another small aqueous layer thus formed was drawn off. Gas chromatographic analysis of the product solution showed it to contain a small amount of unreacted secondary amine. Therefore, 10 g of anhydrous potassium carbonate and 2.5 g of 4-nitrobenzoyl chloride were added, and the mixture was stirred at room temperature for 30 minutes. Subsequent analysis by gas chromatography showed this treatment to have completely eliminated the unreacted starting material. The mixture was filtered, and solvent was removed by rotary evaporation at reduced pressure. Molecular distillation of the residue under high vacuum afforded 20.2 g (81 mmol, 81% of theory) of 6,6′-propylimino-bis-capronitrile.

reactant | 6,6′-imino-bis-capronitrile | 100 mmol, 20.7 g | N(CCCCCC#N)CCCCCC#N | C12H21N3
reactant | 1-iodopropane | 110 mmol, 18.7 g | ICCC | C3H7I
reactant | potassium carbonate | 120 mmol, 16.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-nitrobenzoyl chloride | 2.5 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | methyl t-butyl ether | C(C)(C)(C)OC | C5H12O
solvent | water | 25 mL | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 6,6′-propylimino-bis-capronitrile | 81 mmol, 20.2 g, 81% | C(CC)N(CCCCCC#N)CCCCCC#N | C15H27N3
